US08183351B2
V-9 2-(2-Methoxyethyl)-5-methyl-1,3-dioxane-5-carboxylic acid
478 mg of methyl 2-(2-methoxyethyl)-5-methyl-1,3-dioxane-5-carboxylate (Va-9) are dissolved in 8 ml of tetrahydrofuran, and 92 mg of lithium hydroxide in 2 ml of water are added. The mixture is stirred at room temperature for 16 hours, 92 mg of lithium hydroxide, dissolved in 2 ml of water, are added, and the mixture is stirred for 24 hours. The mixture is acidified with 1N hydrochloric acid and extracted with ethyl acetate, and the solvent of the organic phase is removed under reduced pressure. Water is added to the residue, and the mixture is made basic using 1N aqueous sodium hydroxide solution and extracted with ethyl acetate. The aqueous phase is acidified with 1N hydrochloric acid and extracted with ethyl acetate, the organic phase is separated off and dried over sodium sulphate and the solvent is removed under reduced pressure. This gives 261 mg of 2-(2-methoxyethyl)-5-methyl-1,3-dioxane-5-carboxylic acid as a mixture of two isomeric forms in a purity of about 78% (LCMS).

reactant | methyl 2-(2-methoxyethyl)-5-methyl-1,3-dioxane-5-carboxylate | 478 mg | COCCC1OCC(CO1)(C(=O)OC)C | C10H18O5
reactant | lithium hydroxide | 92 mg | [OH-].[Li+]
reactant | lithium hydroxide | 92 mg | [OH-].[Li+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | water | 2 ml | O | H2O
solvent | water | 2 ml | O | H2O
product | 2-(2-Methoxyethyl)-5-methyl-1,3-dioxane-5-carboxylic acid | COCCC1OCC(CO1)(C(=O)O)C | C9H16O5
